US06683096B2
Preparation of 2-{2-[4-(1-butyl-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid
This compound was prepared following the procedure described in Example 138 (part B) starting with 0.119 g (0.31 mmol) of 2-{2-[4-(1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid methyl ester, 0.022 g (0.53 mmol) of NaH in 60% of mineral oil and 0.044 mL (0.41 mmol) of butyl iodide. The crude mixture was hydrolised following the procedure described in Example 138 (part C) and purified by chromatography over silica gel affording 0.054 g (42% of yield) of the desired product.

reactant | 2-{2-[4-(1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid methyl ester | 0.31 mmol, 0.119 g | COC(C1=C(C=CC=C1)OCCN1CCC(CC1)C1=CNC2=CC=CC=C12)=O | C23H26N2O3
reactant | NaH | 0.53 mmol, 0.022 g | [H-].[Na+]
reactant | butyl iodide | 0.41 mmol, 0.044 mL | C(CCC)I | C4H9I
product | 2-{2-[4-(1-butyl-1H-indol-3-yl)-piperidin-1-yl]-ethoxy}-benzoic acid | C(CCC)N1C=C(C2=CC=CC=C12)C1CCN(CC1)CCOC1=C(C(=O)O)C=CC=C1 | C26H32N2O3
